US05965559
Using an analogous procedure to that described in Example 1, 1-(4-pyridyl)piperidine-4-carbonyl chloride was reacted with 4-(2-naphthylsulphonyl)piperidine to give 4-(2-naphthylsulphonyl)-1-[1-(4-pyridyl)piperidin-4-ylcarbonyl]piperidine in 33% yield;

reactant | 1-(4-pyridyl)piperidine-4-carbonyl chloride | N1=CC=C(C=C1)N1CCC(CC1)C(=O)Cl | C11H13ClN2O
reactant | 4-(2-naphthylsulphonyl)piperidine | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)C1CCNCC1 | C15H17NO2S
product | 4-(2-naphthylsulphonyl)-1-[1-(4-pyridyl)piperidin-4-ylcarbonyl]piperidine | 33% yield | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)C1CCN(CC1)C(=O)C1CCN(CC1)C1=CC=NC=C1 | C26H29N3O3S
